US07148249B2
1-acetyl-3-[1-hydroxy-1-(2-pyrazinyl)methylene]-2-indolinone
4.38 g 1-acetyl-2-indolinone, 3.41 g pyrazine-2-carboxylic acid, 8.83 g TBTU, 4.21 g HOBT-hydrate and 21.8 ml ethyldiisopropylamine are stirred in 70 ml DMF for 15 hours at ambient temperature. The mixture is poured onto 400 ml ice water and 10 ml of conc. hydrochloric acid and stirred for 1 hour. The precipitate is suction filtered, washed with water, stirred with methanol, suction filtered again, washed with methanol and dried at 100° C.

reactant | 1-acetyl-2-indolinone | 4.38 g | C(C)(=O)N1C(CC2=CC=CC=C12)=O | C10H9NO2
reactant | pyrazine-2-carboxylic acid | 3.41 g | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
reactant | TBTU | 8.83 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | ethyldiisopropylamine | 21.8 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
product | 1-acetyl-3-[1-hydroxy-1-(2-pyrazinyl)methylene]-2-indolinone | C(C)(=O)N1C(C(C2=CC=CC=C12)=C(C1=NC=CN=C1)O)=O | C15H11N3O3
